### PR TITLE
feat(RepresentationTheory): Adds Subrepresentations

### PR DESCRIPTION
**Pull request by javierlcontreras**
Co-authored-by: Yaël Dillies yael.dillies@gmail.com

### CODE REVIEW

**Comment by javierlcontreras** [comment]
@YaelDillies there is one remaining sorry at ```Subrepresentation.coe_sup``` that I could not solve, any tips?

**Comment by YaelDillies** [comment]
The proof should be `toSubmodule_injective <| Submodule.coe_sup ..`

File: FLT/Deformations/RepresentationTheory/Subrepresentation.lean [hunk 1]
```diff
@@ -0,0 +1,74 @@
...
+  coe_injective' := SetLike.coe_injective.comp toSubmodule_injective
+
+def toRepresentation (ρ' : Subrepresentation ρ): Representation A G ρ'.toSubmodule where
+  toFun g := (ρ g).restrict (ρ'.apply_mem_toSubmodule g)
+  map_one' := by ext; simp
+  map_mul' x y := by ext; simp
+
+instance : Max (Subrepresentation ρ) where
+  max ρ₁ ρ₂ := .mk (ρ₁.toSubmodule ⊔ ρ₂.toSubmodule) <| by
+      simp [Submodule.forall_mem_sup]
```
Comment (kbuzzard) [inline FLT/Deformations/RepresentationTheory/Subrepresentation.lean:38]: Can you remove the nonterminal `simp`?

File: FLT/Deformations/RepresentationTheory/Subrepresentation.lean [hunk 2]
```diff
@@ -0,0 +1,74 @@
...
+      intro g x₁ hx₁ x₂ hx₂
+      exact Submodule.mem_sup.mpr
+        ⟨ρ g x₁, ρ₁.apply_mem_toSubmodule g hx₁, ρ g x₂, ρ₂.apply_mem_toSubmodule g hx₂, rfl⟩
+
+instance : Min (Subrepresentation ρ) where
+  min ρ₁ ρ₂ := .mk (ρ₁.toSubmodule ⊓ ρ₂.toSubmodule) <| by
+      simp
```
Comment (kbuzzard) [inline FLT/Deformations/RepresentationTheory/Subrepresentation.lean:45]: Ditto

File: FLT/Mathlib/RepresentationTheory/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,40 @@
...
+
+variable (ρ : Representation R G V) (𝓑 : Basis ι R V)
+
+omit [Module.Free R V] [Module.Finite R V] in
+@[simp]
+lemma comp_eq_mul (g h : G): ρ g ∘ₗ ρ h = ρ (g * h) := by
+  simp_all only [map_mul]
+  rfl
+
+noncomputable def GL_map_of_representation_of_basis
```
Comment (kbuzzard) [inline FLT/Mathlib/RepresentationTheory/Basic.lean:20]: Terms should start with a small letter.

File: FLT/Mathlib/RepresentationTheory/Basic.lean [hunk 4]
```diff
@@ -0,0 +1,40 @@
...
+      val_inv := by rw [← toMatrix_comp, comp_eq_mul]; simp
+      inv_val := by rw [← toMatrix_comp, comp_eq_mul]; simp
+    }
+    map_one' := by aesop
+    map_mul' := by rintro x y; simp [LinearMap.toMatrix_mul]; norm_cast
+
+noncomputable def tprod' (R' : Type*) [CommRing R'] [Algebra R R'] (ρ : Representation R G V)
+    : Representation R G (R' ⊗[R] V) where
+  toFun g := TensorProduct.map .id (ρ g)
+  map_one' := by simp; rw [← LinearMap.one_eq_id, TensorProduct.map_one]
```
Comment (kbuzzard) [inline FLT/Mathlib/RepresentationTheory/Basic.lean:34]: Can you get rid of the non-terminal `simp`?

File: FLT/Deformations/RepresentationTheory/Subrepresentation.lean [hunk 5]
```diff
@@ -0,0 +1,74 @@
...
+      intro g x hx₁ hx₂
+      exact ⟨ρ₁.apply_mem_toSubmodule g hx₁, ρ₂.apply_mem_toSubmodule g hx₂⟩
+
+
+@[simp, norm_cast]
+lemma coe_sup (ρ₁ ρ₂ : Subrepresentation ρ) : ↑(ρ₁ ⊔ ρ₂) = (ρ₁ : Set W) + (ρ₂ : Set W) := by
+  sorry
```
Comment (kbuzzard) [inline FLT/Deformations/RepresentationTheory/Subrepresentation.lean:52]:
```suggestion
lemma coe_sup (ρ₁ ρ₂ : Subrepresentation ρ) : ↑(ρ₁ ⊔ ρ₂) = (ρ₁ : Set W) + (ρ₂ : Set W) :=
  Submodule.coe_sup ρ₁.toSubmodule ρ₂.toSubmodule
```
(found by noting that `rfl` didn't work and then trying `example (M N : Submodule A W) : M ⊔ N = (M : Set W) + N := by exact?`)

File: FLT/Deformations/RepresentationTheory/Irreducible.lean [hunk 6]
```diff
@@ -0,0 +1,19 @@
...
+variable {A : Type*} [CommRing A]
+
+variable {W : Type*} [AddCommMonoid W] [Module A W]
+
+class Irreducible (ρ : Representation A G W) : Prop where
+  irreducible : IsSimpleOrder (Subrepresentation ρ)
+
+class AbsolutelyIrreducible (ρ : Representation A G W) : Prop where
+  absolutelyIrreducible : ∀ A', ∀ _ : CommRing A', ∀ _ : Algebra A A',
+    ∀ _ : Function.Injective (algebraMap A A'), Irreducible (A' ⊗ᵣ' ρ)
```
[the remark this answers is not in the document]
Comment (javierlcontreras) [reply FLT/Deformations/RepresentationTheory/Irreducible.lean]: This makes sense, good catch.

File: FLT/Deformations/RepresentationTheory/Subrepresentation.lean (hunk 1 above)
Comment (javierlcontreras) [reply FLT/Deformations/RepresentationTheory/Subrepresentation.lean]: Are we happy with a non terminal "simp only"? I am guessing that the reason for asking for not having non terminal simps is to make proofs more robust to changes in the simp algorithm, but the "simp only"  case is some middle point which might be fine, depending on the community's preference

Comment (kbuzzard) [reply FLT/Deformations/RepresentationTheory/Subrepresentation.lean]: Yes definitely! The rules are that after `simp` there are very few things which are allowed to happen (e.g. `ring`) but most of the time `simp` is supposed to be a closing tactic. Just replace `simp` with `simp?` and then the corresponding `simp only` (or see if you can remove the `simp` completely if you like).

File: FLT/Deformations/RepresentationTheory/Irreducible.lean [hunk 7]
```diff
@@ -0,0 +1,19 @@
...
+variable {k : Type*} [Field k]
+
+variable {W : Type*} [AddCommMonoid W] [Module k W]
+
+class Irreducible (ρ : Representation k G W) : Prop where
+  irreducible : IsSimpleOrder (Subrepresentation ρ)
+
+class AbsolutelyIrreducible (ρ : Representation k G W) : Prop where
+  absolutelyIrreducible : ∀ k', ∀ _ : Field k', ∀ _ : Algebra k k',
+    ∀ _ : Function.Injective (algebraMap k k'), Irreducible (k' ⊗ᵣ' ρ)
```
Comment (kbuzzard) [inline FLT/Deformations/RepresentationTheory/Irreducible.lean:17]: This definition is now weird, because if k has zero divisors then there will be no fields at all which admit an injective map from k, and thus every k-representation will be vacuously absolutely irreducible. Why not drop injectivity? It will be automatic in all the cases in which one wants to apply it, namely when k is a field, and it simplifies the definition to drop it. The class should also be called `IsAbsolutelyIrreducible` because it's a Prop, it should have a docstring, and the docstring should explain that it gives the right answer when `k` is a field and otherwise should be used at your own risk.

File: FLT/Deformations/RepresentationTheory/Irreducible.lean [hunk 8]
```diff
@@ -0,0 +1,19 @@
...
+
+namespace Representation
+
+variable {G : Type*} [Group G]
+
+variable {k : Type*} [Field k]
+
+variable {W : Type*} [AddCommMonoid W] [Module k W]
+
+class Irreducible (ρ : Representation k G W) : Prop where
```
Comment (kbuzzard) [inline FLT/Deformations/RepresentationTheory/Irreducible.lean:12]: This is a Prop so should be `IsIrreducible`.

File: FLT/Mathlib/LinearAlgebra/Span/Defs.lean [hunk 9]
```diff
@@ -0,0 +1,28 @@
...
+variable {p p' : Submodule R M}
+
+variable {P : M → Prop}
+
+namespace Submodule
+
+@[simp high]
+lemma forall_mem_sup : (∀ x ∈ p ⊔ p', P x) ↔ (∀ x₁ ∈ p, ∀ x₂ ∈ p', P (x₁ + x₂)) := by
+  simp [mem_sup]
+  aesop
```
Comment (kbuzzard) [inline FLT/Mathlib/LinearAlgebra/Span/Defs.lean:18]: Here is a (rare) situation where a non-terminal simp is OK. Because aesop uses simp (it uses the kitchen sink) so if a change in simp breaks this proof then it was probably going to break anyway. After a non-terminal simp you can only have very strong tactics, basically.

File: FLT/Mathlib/RepresentationTheory/Basic.lean [hunk 10]
```diff
@@ -0,0 +1,40 @@
...
+variable {R V G ι: Type*} [CommRing R] [AddCommMonoid V] [Module R V] [Module.Free R V]
+  [Module.Finite R V] [Group G] [DecidableEq ι] [Fintype ι]
+
+variable (ρ : Representation R G V) (𝓑 : Basis ι R V)
+
+omit [Module.Free R V] [Module.Finite R V] in
+@[simp]
+lemma comp_eq_mul (g h : G): ρ g ∘ₗ ρ h = ρ (g * h) := by
+  simp_all only [map_mul]
+  rfl
```
Comment (kbuzzard) [inline FLT/Mathlib/RepresentationTheory/Basic.lean:18]: The fact that you needed `rfl` after `simp` indicates that there's something wrong here. The goal after `simp_all only [map_mul]` is
```
⊢ ρ g ∘ₗ ρ h = ρ g * ρ h
```
and indeed this is the goal after `simp` (you don't need `simp_all` here, there's nothing in the local context which is helping). The fact that `simp` turns the RHS into `ρ g * ρ h` means that the community has decided that `ρ (g * h)` is not in simp normal form, and that the simp normal form for this expression is `ρ g * ρ h`. So making `comp_eq_mul` into a `simp` lemma is a dubious choice because you are simplifying something into a form which is not the simplest form. Why not
```
@[simp]
lemma comp_def (g h : G): ρ g ∘ₗ ρ h = ρ g * ρ h := rfl
```
? That way you're putting the equation into the form which the community (or at least whoever wrote `map_mul` and tagged it `@[simp]` ) has decided is the simp normal form.

File: FLT/Mathlib/RepresentationTheory/Basic.lean [hunk 11]
```diff
@@ -0,0 +1,40 @@
...
+
+noncomputable def gl_map_of_representation_of_basis
```
Comment (kbuzzard) [inline FLT/Mathlib/RepresentationTheory/Basic.lean:20]: I can't believe that this is what the naming convention says this map is called (but I'm not very good at the naming convention). At the very least you can remove `of_representation` because you're in the Representation namespace right now.

File: FLT/Mathlib/RepresentationTheory/Basic.lean [hunk 12]
```diff
@@ -0,0 +1,40 @@
...
+      val := LinearMap.toMatrix 𝓑 𝓑 (ρ g)
+      inv := LinearMap.toMatrix 𝓑 𝓑 (ρ g⁻¹)
+      val_inv := by rw [← toMatrix_comp, comp_eq_mul]; simp
+      inv_val := by rw [← toMatrix_comp, comp_eq_mul]; simp
+    }
+    map_one' := by aesop
+    map_mul' := by rintro x y; simp [LinearMap.toMatrix_mul]; norm_cast
+
+noncomputable def tprod' (R' : Type*) [CommRing R'] [Algebra R R'] (ρ : Representation R G V)
+    : Representation R G (R' ⊗[R] V) where
```
Comment (kbuzzard) [inline FLT/Mathlib/RepresentationTheory/Basic.lean:32]: Did you really mean to make R' (x)_R V an R-representation rather than R'-representation here? If you meant it to be an R'-representation then it could be called baseChange or something like that. If you did want it to be an R-representation then my instinct is to make baseChange anyway, and also restrictScalars from R'-reps to R-reps if R' is an R-algebra, and get tprod' by composing.

**Review by kbuzzard — COMMENTED** [review]
Here are some more comments. Can you click on "resolve conversation" for comments which you've dealt with (e.g. if you've applied suggestions which I've made). That way it's much easier to see what has been dealt with and what remains to be done.

File: FLT/Deformations/RepresentationTheory/Irreducible.lean (hunk 7 above)
Comment (javierlcontreras) [reply FLT/Deformations/RepresentationTheory/Irreducible.lean:17]: As of right now, the definition needs k to be a field right? So I don't understand the "and otherwise should be used at your own risk." part

Comment (javierlcontreras) [reply FLT/Deformations/RepresentationTheory/Irreducible.lean:17]: I do see how injectivity is now free, happy to drop that

Comment (javierlcontreras) [reply FLT/Deformations/RepresentationTheory/Irreducible.lean]: Extra question: How could k have zero divisors if k is a field?

Comment (kbuzzard) [reply FLT/Deformations/RepresentationTheory/Irreducible.lean]: Oh apologies! I had missed that `k` was already a field, so some of what I said above is nonsense (I'd just read through the subrepresentation file, where k was a commring). Sorry for creating confusion. My comment should have just said "drop injectivity, this is automatic for fields". The definition is fine.

File: FLT/Deformations/RepresentationTheory/Irreducible.lean [hunk 13]
```diff
@@ -0,0 +1,34 @@
...
+namespace Representation
+
+variable {G : Type*} [Group G]
+
+variable {k : Type*} [Field k]
+
+variable {W : Type*} [AddCommMonoid W] [Module k W]
+
+/-!
+  IsIrreducible predicates that a given Representation ρ is irreducible (also known as simple),
```
Comment (kbuzzard) [inline FLT/Deformations/RepresentationTheory/Irreducible.lean:13]:
```suggestion
  `IsIrreducible ρ` is the statement that a given representation ρ is irreducible (also known as simple),
```
My instinct is to make things easier for mathematicians to read, and I don't know if they know what "predicates" means.

File: FLT/Deformations/RepresentationTheory/Irreducible.lean [hunk 14]
```diff
@@ -0,0 +1,34 @@
...
+  meaning that any subrepresentation must be either the full one (⊤) or zero (⊥)
+
+  This notion is only well behaved when the representation is over a field k. If it were defined over
+  a ring A with a nontrivial ideal J, the subrepresentation JW would be a non trivial subrepresentation,
```
Comment (kbuzzard) [inline FLT/Deformations/RepresentationTheory/Irreducible.lean:17]:
```suggestion
  a ring A with a nontrivial ideal J, the subrepresentation JW would often be a non trivial subrepresentation,
```
If W was A/J then this trick doesn't work.

File: FLT/Deformations/RepresentationTheory/Irreducible.lean [hunk 15]
```diff
@@ -0,0 +1,34 @@
...
+  so ρ would never be irreducible.
```
Comment (kbuzzard) [inline FLT/Deformations/RepresentationTheory/Irreducible.lean:18]:
```suggestion
  so ρ would rarely be irreducible.
```

File: FLT/Deformations/RepresentationTheory/Irreducible.lean [hunk 16]
```diff
@@ -0,0 +1,34 @@
...
+class IsIrreducible (ρ : Representation k G W) : Prop where
+  irreducible : IsSimpleOrder (Subrepresentation ρ)
+
+/-!
+  IsAbsolutelyIrreducible predicates that a given Representation ρ over a field k
+  is absolutely irreducible, meaning that all the possible base change extensions are irreducible.
+
+  This notion is only well behaved when the representation is over a field k. If it were defined over
+  a ring A with a nontrivial ideal J, the subrepresentation JW would be a non trivial subrepresentation,
+  so ρ would never be absolutely irreducible.
```
Comment (kbuzzard) [inline FLT/Deformations/RepresentationTheory/Irreducible.lean:29]:
```suggestion
```
Sorry, this was my misunderstanding.

File: FLT/Deformations/RepresentationTheory/Irreducible.lean [hunk 17]
```diff
@@ -0,0 +1,34 @@
...
+
+  This notion is only well behaved when the representation is over a field k. If it were defined over
+  a ring A with a nontrivial ideal J, the subrepresentation JW would be a non trivial subrepresentation,
+  so ρ would never be irreducible.
+-/
+class IsIrreducible (ρ : Representation k G W) : Prop where
+  irreducible : IsSimpleOrder (Subrepresentation ρ)
+
+/-!
+  IsAbsolutelyIrreducible predicates that a given Representation ρ over a field k
```
Comment (kbuzzard) [inline FLT/Deformations/RepresentationTheory/Irreducible.lean:24]:
```suggestion
  `IsAbsolutelyIrreducible ρ` states that a given representation ρ over a field k
```

**Review by kbuzzard — APPROVED** [review]
Modulo docstrings this is good to go. Thanks a lot!

**Comment by kbuzzard** [comment]
Oh sorry, you dealt with all my comments but didn't resolve the conversations so I only just noticed!
